US09359338B2
Step 3: Synthesis of 4-(1-methylpiperidin-4-yl)-3-(trifluoromethyl)aniline
Add LiAlH4 (66.5 mg, 1.75 mmol) at 0° C. to the mixture of tert-butyl 4-(4-amino-2-(trifluoromethyl)phenyl)piperidine-1-carboxylat (151 mg, 0.438 mmol) in THF (3 mL), stir the reaction mixture overnight at room temperature. Quench the reaction with 15% sodium hydroxide solution, filter and concentrate the filtrate under reduced pressure. Purify the residue by flash chromatography (silica gel, DCM:MeOH=15:1) to afford the desired product (70 mg, 56%). MS: (M+1): 259.1.

reactant | LiAlH4 | 1.75 mmol, 66.5 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | tert-butyl 4-(4-amino-2-(trifluoromethyl)phenyl)piperidine-1-carboxylat | 0.438 mmol, 151 mg | NC1=CC(=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C)C(F)(F)F | C17H23F3N2O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-(1-methylpiperidin-4-yl)-3-(trifluoromethyl)aniline | 70 mg, 56% | CN1CCC(CC1)C1=C(C=C(N)C=C1)C(F)(F)F | C13H17F3N2
